US03948971
B. Preparation of N-(1-Methylcyclobutyloxycarbonyl)-Aspartic Anhydride
A solution of 2.45 g. of N-(1-methylcyclobutyloxycarbonyl)-aspartic acid in 50 ml. of dioxane is prepared and 2.2 g. of dicyclohexylcarbodiimide is added with vigorous stirring. After stirring at 25°C. for 2 hours, the dicyclohexylurea is removed by filtration and the dioxane removed by evaporation in vacuo. The resulting solid is substantially pure N-(1-methylcyclobutyloxycarbonyl)-aspartic anhydride.

reactant | N-(1-methylcyclobutyloxycarbonyl)-aspartic acid | CC1(CCC1)OC(=O)N[C@@H](CC(=O)O)C(=O)O | C10H15NO6
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-(1-Methylcyclobutyloxycarbonyl)-Aspartic Anhydride | CC1(CCC1)OC(=O)N[C@H]1CC(=O)OC1=O | C10H13NO5
